US05401734
The solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate (syn isomer) (540 mg) in acetone (5 ml) and water (5 ml) was adjusted to pH 7.0 with a saturated aqueous solution of sodium bicarbonate. To the mixture was added 3,4-diacetoxybenzoyl chloride (308 mg) at pH 6.5-7.0. The mixture was stirred for an hour and evaporated in vacuo to remove acetone. The residue was adjusted to pH 8.5 with a saturated aqueous solution of sodium bicarbonate and then stirred for 2 hours at room temperature. The mixture was adjusted to pH 3.5 with 3N hydrochloric acid and then filtered. The filtrate was subjected to column chromatography on Diaion HP-20 using 5% aqueous isopropyl alcohol as an eluent. The eluate was evaporated in vacuo to remove isopropyl alcohol and then lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-[1-methyl- 4-(3,4-dihydroxybenzoyl)- 1-piperazinio]methyl-3-cephem-4carboxylate (syn isomer) (265 mg).

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate | 540 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCNCC2)C)C(=O)[O-])C1=O)=NOCC(=O)O | C19H24N8O7S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3,4-diacetoxybenzoyl chloride | 308 mg | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1OC(C)=O | C11H9ClO5
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-[1-methyl- 4-(3,4-dihydroxybenzoyl)- 1-piperazinio]methyl-3-cephem-4carboxylate | 265 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C)C(=O)[O-])C1=O)=NOCC(=O)O | C26H28N8O10S2
